US08563718B2
7-(1-ethyl-propyl)-3-(2,4-dichloro-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (11.64 mmoles) is charged into a 100 mL 3-necked round bottomed flask followed by addition of 2-propanol (16 mL, 3.72 volumes). The yellowish brown slurry is stirred at about 20° C. for 5 min. Then morpholine (3.3 g, 37.84 mmoles) is added over 2-5 minutes. Contents are refluxed for 6 hr. The slurry is cooled to 25° C. 2-Propanol (32 mL, 7.44 volumes) and water (8.6 mL, 2.0 volumes) are added and the mixture warmed to 70-75° C., filtered and concentrated to ˜9 volumes at atmospheric pressure. The clear solution is gradually cooled to 55° C., seeded with 0.06 g of crystalline 7-(1-ethyl-propyl)-3-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine slurried in 0.5 mL 2-propanol, rinsed with additional 0.5 mL 2-propanol and added to crystallization flask. The slurry is cooled to 0-5° C., maintained for 1 hr., filtered and the product rinsed with 2-propanol (9 mL, 2.1 volumes). Suctioned dried under vacuum at 60° C. to afford 4.6 g of dry 7-(1-ethyl-propyl)-3-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (88.8% yield, purity by HPLC assay is 99.88%). MS (ES)=420 (M+1).

reactant | 7-(1-ethyl-propyl)-3-(2,4-dichloro-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 11.64 mmoles | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(N=C(S2)Cl)Cl)C)C | C16H18Cl2N4S
reactant | 2-propanol | 16 mL | CC(C)O | C3H8O
reactant | morpholine | 37.84 mmoles, 3.3 g | N1CCOCC1 | C4H9NO
reactant | 2-Propanol | 32 mL | CC(C)O | C3H8O
solvent | water | 8.6 mL | O | H2O
product | 7-(1-ethyl-propyl)-3-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 4.6 g, 88.8% yield | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(N=C(S2)N2CCOCC2)Cl)C)C | C20H26ClN5OS
